US09085555B2
F. (2S,5R)-5-(Acetylamino-methyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide
To a solution of (2R,5S)-2-(acetylamino-methyl)-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (48 mg, 0.1 mmol) in THF (0.3 mL) was added Pd/C (10%, 2.1 mg). The solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere for 5 h. The catalyst was removed through a pad of Celite and washed with THF. Solvents were concentrated and the resulting residue was used without further purification in the next step. MS (LC/MS): 346 [M+H]+; tR (HPLC conditions b): 2.94 min.

reactant | (2R,5S)-2-(acetylamino-methyl)-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 0.1 mmol, 48 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CNC(C)=O | C23H24F3N3O5
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 2.1 mg | [Pd] | Pd
product | (2S,5R)-5-(Acetylamino-methyl)-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N[C@H](CC1)CNC(C)=O)(F)F | C15H18F3N3O3
